US07442808B2
6-Hydroxy-2-methyl-1-benzofuran-3(2H)-one
To a stirred solution of resorcinol (5.5 g, 50 mmol) in methanesulfonic acid (75 mL) was added 2-bromopropionic acid (4.7 mL, 50 mmol) and P2O5 (4.0 g, 28 mmol). The resulting mixture was stirred for 30 min at 80° C. After cooling to room temperature, the reaction mixture was poured onto ice and extracted with chloroform (2×). The combined organic extracts were washed with brine, dried with sodium sulfate, and concentrated. The orange colored crude product (˜12 g) was carefully taken up into aqueous sodium hydroxide (2N, 245 mL) at 0-5° C., and the resulting mixture was stirred at room temperature overnight. The dark brown solution was cooled to 0° C., and carefully acidified to with concentrated HCI to pH ˜3. It was then extracted with ethyl acetate (3×). The combined organic extracts were washed with brine, dried with sodium sulfate, and concentrated. The crude material was purified on a silica gel column, eluting with ethyl acetate (20-75%) in hexanes. The final product was obtained as a crystalline solid upon standing at room temperature. The NMR showed a mixture of tautomers (mostly the enol form).

reactant | resorcinol | 50 mmol, 5.5 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | 2-bromopropionic acid | 50 mmol, 4.7 mL | BrC(C(=O)O)C | C3H5BrO2
reactant | P2O5 | 28 mmol, 4.0 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
solvent | methanesulfonic acid | 75 mL | CS(=O)(=O)O | CH4O3S
product | 6-Hydroxy-2-methyl-1-benzofuran-3(2H)-one | OC1=CC2=C(C(C(O2)C)=O)C=C1 | C9H8O3
